US06635633B2
6-Fluoro-3-(1-{3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperidin-4-yl)benzo[b]thiophene-2-carboxylic acid (2-morpholin-4-yl-ethyl)-amide
A stirred solution of 20 mg (0.03 mmol) of 6-fluoro-3-(1-{3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperidin-4-yl)-benzo[b]thiophene-2-carboxylic acid in 0.3 mL of dry DMF was treated with 14 mg (0.036 mmol) of HBTU and 8 μL (0.045 mmol) of DIEA. The solution was stirred for 5 min before the addition of 20 μL (0.15 mmol) of 4-(2-aminoethyl)morpholine. The reaction was stirred at room temperature for 30 min then partitioned between EtOAc (30 mL) and saturated NaHCO3 (20 mL). The aqueous layer was further extracted with EtOAc (2×20 mL). The combined organic layers were then washed with brine, dried over Na2SO4, and concentrated. Purification by column chromatography (silica, 5-10% of (2 N NH3 in MeOH)/CH2Cl2) afforded 15 mg (65%) of a white solid. MS (electrospray), exact mass calculated for C37H44F4N6O4S2: 776.28; m/z found, 777.3 [M+H]+. 1H NMR (CDCl3, 400 MHz): 8.07 (br s, 1H), 7.73 and 7.66 (A and B of AB quartet, J=8.41 Hz, 4H), 7.50 (dd, J=8.41, 2.35 Hz, 1H), 7.14 (dt, J=8.61, 2.54 Hz, 1H), 6.64 (t, J=4.70 Hz, 1H), 4.56 (s, 2H), 4.16 (t, J=6.85 Hz, 2H), 3.80-3.67 (m, 7H), 3.53 (q, J=5.48 Hz, 2H), 3.03 (br m, 2H), 2.98 (t, J=5.67 Hz, 2H), 2.90 (s, 3H), 2.60 (t, J=5.87 Hz, 2H), 2.38 (br m, 4H), 2.12 (br m, 4H), 1.86-1.73 (br m, 3H).

reactant | 6-fluoro-3-(1-{3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperidin-4-yl)-benzo[b]thiophene-2-carboxylic acid | 0.03 mmol, 20 mg | FC=1C=CC2=C(SC(=C2C2CCN(CC2)CCCN2N=C(C=3CN(CCC32)S(=O)(=O)C)C3=CC=C(C=C3)C(F)(F)F)C(=O)O)C1 | C31H32F4N4O4S2
reactant | HBTU | 0.036 mmol, 14 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.045 mmol, 8 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(2-aminoethyl)morpholine | 0.15 mmol, 20 μL | NCCN1CCOCC1 | C6H14N2O
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | 6-Fluoro-3-(1-{3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperidin-4-yl)benzo[b]thiophene-2-carboxylic acid (2-morpholin-4-yl-ethyl)-amide | 15 mg, 65% | N1(CCOCC1)CCNC(=O)C1=C(C2=C(S1)C=C(C=C2)F)C2CCN(CC2)CCCN2N=C(C=1CN(CCC12)S(=O)(=O)C)C1=CC=C(C=C1)C(F)(F)F | C37H44F4N6O4S2
